US08258130B2
To a solution of 5-fluoro-3,3-dimethyl-1-nitroso-2,3-dihydro-1H-indole (4.03 g, 20.75 mmol) in THF (70 mL) at 0° C. is added a solution of LiAlH4 (40 mL, 40 mmol) in THF dropwise. The mixture is allowed to warm to rt and stirred overnight. The mixture is quenched with a saturated aqueous solution of Rochelle's Salt. The resulting mixture is stirred until a slurry is obtained. The organic phase is separated, washed with 10% aqueous HCl, saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 25% EtOAc in heptane to afford 5-fluoro-3,3-dimethyl-2,3-dihydro-indol-1-ylamine (3.51 g, 94%) as an oil. MS: 181 (M+H). 1H NMR (300 MHz, CD3Cl)): δ 6.85-6.78 (m, 1H), 6.75-6.68 (m, 2H), 3.44 (br s, 2H), 3.14 (s, 2H), 1.28 (s, 6H).

reactant | 5-fluoro-3,3-dimethyl-1-nitroso-2,3-dihydro-1H-indole | 20.75 mmol, 4.03 g | FC=1C=C2C(CN(C2=CC1)N=O)(C)C | C10H11FN2O
reactant | LiAlH4 | 40 mmol, 40 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 5-fluoro-3,3-dimethyl-2,3-dihydro-indol-1-ylamine | 3.51 g, 94% | FC=1C=C2C(CN(C2=CC1)N)(C)C | C10H13FN2
